US08633211B2
N-(2-{1-[(5-Chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-ethyl)-3-methyl-butyramide
To a suspension of 2-[3-(2-amino-ethyl)-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-yl]-N-(5-chloro-2,4-dimethoxy-phenyl)-acetamide trifluoroacetate (75 mg, 0.17 mmol) in THF (1 ml), triethylamine is added (0.06 ml, 0.43 mmol) followed by isovaleryl chloride (30 mg, 0.26 mmol). The mixture is stirred overnight at RT and then treated with water (3 ml). The resulting solid is filtered and washed with water to afford the title compound; [M+H]+ 517.3.

reactant | 2-[3-(2-amino-ethyl)-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-yl]-N-(5-chloro-2,4-dimethoxy-phenyl)-acetamide trifluoroacetate | 0.17 mmol, 75 mg | FC(C(=O)O)(F)F.NCCN1C(N(C2=CC=CC=C2C1=O)CC(=O)NC1=C(C=C(C(=C1)Cl)OC)OC)=O
reactant | isovaleryl chloride | 0.26 mmol, 30 mg | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | water | 3 ml | O | H2O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(2-{1-[(5-Chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-ethyl)-3-methyl-butyramide | ClC=1C(=CC(=C(C1)NC(=O)CN1C(N(C(C2=CC=CC=C12)=O)CCNC(CC(C)C)=O)=O)OC)OC | C25H29ClN4O6
